US07081454B2
(±)-4-[2-(3-Chloro-phenyl)-2-hydroxy-ethylamino]-3-[4-methyl-6-(1-piperazin-1-yl-methanoyl)-1H-benzimidazol-2-yl]-1H-pyridin-2-one:
To a solution of (±)-4-[1-(2-{4-[2-(3-chloro-phenyl)-2-hydroxy-ethylamino]-2-oxo-1,2-dihydro-pyridin-3-yl}-7-methyl-3H-benzimidazol-5-yl)-methanoyl]-piperazine-1-carboxylic acid tert-butyl ester (40 mg, 0.06 mmol) in methanol (5 mL) was added 4.0 M HCl dioxane solution (0.1 mL, excess). The reaction mixture was stirred at room temperature for 14 h. After concentration, the residue was purified by prep. HPLC to give the title compound (16 mg, 63%) as a white foam. 1H NMR (300 MHz, CD3OD) δ 7.56 (1H, s), 7.53 (1H, s), 7.23–7.41 (4H, m), 7.17 (1H, m), 6.26 (1H, d, J=7.6 Hz), 4.99 (1H, dd, J=4.7, 6.4 Hz), 3.91 (4H, broad s), 3.74 (1H, dd, J=4.7, 13.5 Hz), 3.65 (1H, dd, J=6.4, 13.5 Hz), 3.31 (4H, broad s), 2.63 (3H, s). LCMS (M+H)+ m/z 507 (t=1.38 min.).

reactant | (±)-4-[1-(2-{4-[2-(3-chloro-phenyl)-2-hydroxy-ethylamino]-2-oxo-1,2-dihydro-pyridin-3-yl}-7-methyl-3H-benzimidazol-5-yl)-methanoyl]-piperazine-1-carboxylic acid tert-butyl ester | 0.06 mmol, 40 mg | C(C)(C)(C)OC(=O)N1CCN(CC1)C(=O)C1=CC2=C(N=C(N2)C=2C(NC=CC2NCC(O)C2=CC(=CC=C2)Cl)=O)C(=C1)C | C31H35ClN6O5
reactant | HCl dioxane | 4.0 M, 0.1 mL | O1CCOCC1.Cl
solvent | methanol | 5 mL | CO | CH4O
product | (±)-4-[2-(3-Chloro-phenyl)-2-hydroxy-ethylamino]-3-[4-methyl-6-(1-piperazin-1-yl-methanoyl)-1H-benzimidazol-2-yl]-1H-pyridin-2-one | 16 mg, 63% | ClC=1C=C(C=CC1)C(CNC1=C(C(NC=C1)=O)C1=NC2=C(N1)C=C(C=C2C)C(=O)N2CCNCC2)O | C26H27ClN6O3
